US08008340B2
(5-Fluoro-3-p-tolylsulfanyl-1H-indol-2-yl)-pyrrolidin-1-yl-methanone (Iw)
Treat 5-fluoro-1H-indole-2-carboxylic acid 3 (X═F, 516 mg, 3.0 mmol) with pyrrolidine (3.0 equiv., 0.76 mL, 9.0 mmol) as described in General Synthetic Procedure VIa to afford 5-fluoro-1H-indol-2yl-pyrrolidin-1-yl-methanone 8 (X═F, R4=pyrrolidin-1-yl; 620 mg, 89%) as a white solid, mp 254-255° C. 1H NMR (DMSO-d6) δ 11.7 (brs, 1H), 7.5-7.4 (m, 2H), 7.1 (td, 1H), 6.9 (s, 1H), 3.8 (t, 2H), 3.5 (t, 2H), 2.0-1.9 (m, 4H). Treat 5-fluoro-1H-indol-2yl-pyrrolidin-1-yl-methanone (327 mg, 2.0 mmol) with p-tolyldisulfide (450 mg, 2.6 mmol, 1.3 equiv.) as described in General Synthetic Procedure VIIa to afford the title compound Iw (334 mg, 47%) as a white amorphous solid: 1H NMR (DMSO-d6) δ 12.2 (brs, 1H), 7.5 (m, 1H), 7.2-7.0 (m, 6H), 3.5 (m, 2H), 2.2 (s, 3H), 1.9-1.7 (m, 4H); m/z=355 (M+1).

reactant | 5-fluoro-1H-indol-2yl-pyrrolidin-1-yl-methanone | 2.0 mmol, 327 mg | FC=1C=C2C=C(NC2=CC1)C(=O)N1CCCC1 | C13H13FN2O
reactant | p-tolyldisulfide | 2.6 mmol, 450 mg, 1.3 equiv. | C1(=CC=C(C=C1)SSC1=CC=C(C=C1)C)C | C14H14S2
product | (5-Fluoro-3-p-tolylsulfanyl-1H-indol-2-yl)-pyrrolidin-1-yl-methanone | FC=1C=C2C(=C(NC2=CC1)C(=O)N1CCCC1)SC1=CC=C(C=C1)C | C20H19FN2OS
